US06087380
b) 1-Methyl-2-[2-(2-amidinothiophen-5-yl)ethyl]-benzimidazol-5-yl-carboxylicacid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide-hydrochloride
Prepared analogously to Example 25d from 1-methyl-2-[2-(2-cyanothiophen-5-yl)ethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide and ethanolic hydrochloric acid, ethanol and ammonium carbonate. Yield: 53% of theory, C26H28N6O3S (504.6) Rf value: 0.22 (silica gel; dichloromethane/methanol=5:1) ##EQU34##

reactant | 1-methyl-2-[2-(2-cyanothiophen-5-yl)ethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide | N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CCC2=CC=C(S2)C#N)C)C=C1)CCC(=O)OCC | C26H25N5O3S
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | dichloromethane methanol | ClCCl.CO
product | 1-Methyl-2-[2-(2-amidinothiophen-5-yl)ethyl]-benzimidazol-5-yl-carboxylicacid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | Yield: 53% | Cl.N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CCC2=CC=C(S2)C(N)=N)C)C=C1)CCC(=O)OCC | InChI=1S/C26H28N6O3S.ClH/c1-3-35-24(33)13-15-32(22-6-4-5-14-29-22)26(34)17-7-10-20-19(16-17)30-23(31(20)2)12-9-18-8-11-21(36-18)25(27)28;/h4-8,10-11,14,16H,3,9,12-13,15H2,1-2H3,(H3,27,28);1H
